US09326987B2
6-(1H-Indol-4-yl)-1-(phenylsulfonyl)-1H-indazol-4-amine
6-Bromo-1-(phenylsulfonyl)-1H-indazol-4-amine (3 g), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (2.278 g), Pd(dppf)Cl2 (0.623 g) and sodium carbonate (2.71 g) were divided between 2 microwave vials and dissolved in 1,4-dioxane (16 ml) and water (16 ml) to give 8 ml of each solvent in each vial. The vials were heated in the microwave at 100° C. for 10 min. The mixtures were combined and filtered through Celite, washing with ethyl acetate. The resulting mixture was partitioned between water (100 ml) and ethyl acetate (100 ml) and the layers separated. The aq layer was extracted with further ethyl acetate (2×50 ml) and the organic extracts were combined, passed through a hydrophobic frit and the solvent removed in vacuo to give a brown solid which was pre-adsorbed onto silica and added to the top of a 100 g silica SPE cartridge. This was eluted with 0-100% ethyl acetate:cyclohexane over 60 min on the FlashMaster II. The product-containing fractions were combined and the solvent was removed in vacuo to afford the title compound as orange crystals which were dried on a high vacuum line for 1 hour.

reactant | 6-Bromo-1-(phenylsulfonyl)-1H-indazol-4-amine | 3 g | BrC=1C=C(C=2C=NN(C2C1)S(=O)(=O)C1=CC=CC=C1)N | C13H10BrN3O2S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 2.278 g | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | sodium carbonate | 2.71 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 16 ml | O | H2O
solvent | 1,4-dioxane | 16 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.623 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(1H-Indol-4-yl)-1-(phenylsulfonyl)-1H-indazol-4-amine | 8 ml | N1C=CC2=C(C=CC=C12)C=1C=C(C=2C=NN(C2C1)S(=O)(=O)C1=CC=CC=C1)N | C21H16N4O2S
